US08232283B2
4-Chloro-2-(methylthio)pyrimidine-5-carbaldehyde (90 mmol) and 2-(2-chloro-5-nitrophenyl)-N-methoxyacetamide (98 mmol) were dissolved in DMF (1 L) to give a brown solution. The reaction mixture was cooled to 0° C. Potassium carbonate (197 mmol) was added. The mixture was stirred at 0° C. for 2 h and then allowed to warm to room temperature over night. Potassium carbonate was filtered off and the filtrate was concentrated to approximately 100 mL. The residue was diluted with water (1 L) and filtered. The filter cake was washed with 350 mL of EtOH to give a brown solid that was dried in vacuum. The by-product (Z)-6-(2-chloro-5-nitrophenyl)-2-(methylthio)-7H-pyrano[2,3-d]pyrimidin-7-one O-methyl oxime was separated by reflux of the mixture for 4 h in EtOH and hot filtration of the suspension through a sintered glass funnel. Evaporation of the filtrate and drying gave 6-(2-chloro-5-nitrophenyl)-8-methoxy-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one as a solid (52%).

reactant | 4-Chloro-2-(methylthio)pyrimidine-5-carbaldehyde | 90 mmol | ClC1=NC(=NC=C1C=O)SC | C6H5ClN2OS
reactant | 2-(2-chloro-5-nitrophenyl)-N-methoxyacetamide | 98 mmol | ClC1=C(C=C(C=C1)[N+](=O)[O-])CC(=O)NOC | C9H9ClN2O4
reactant | Potassium carbonate | 197 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | 6-(2-chloro-5-nitrophenyl)-8-methoxy-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 52% | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC2=C(N=C(N=C2)SC)N(C1=O)OC | C15H11ClN4O4S
